US08541407B2
A solution of 6-chloro-11H-benzo[e]pyrido[3,2-b][1,4]diazepine (4.3 g, 19 mmol), 4-(hydroxymethyl)benzohydrazide (3.2 g, 20 mmol) and triethylamine (2.8 mL, 20 mmol) in dimethylacetamide (100 mL) was stirred at 85° C. until the starting material is all consumed (as followed by LC/MS). The reaction mixture was diluted with dichloromethane (100 mL) and water (100 mL). The phases were separated and the aqueous phase was extracted with dichloromethane (3×100 mL). The combined organic extracts were washed with water (3×100 mL), dried over sodium sulfate and concentrated in vacuo. The residue was triturated with ethyl acetate (20 mL) and the solid was collected by filtration. The (4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)phenyl)methanol was obtained as a yellow solid (4.8 g, 74%). M.p.=276-278° C.; 400 MHz 1H NMR (DMSO-d6) δ: 8.78 (s, 1H), 8.21 (dd, J=4.8, 1.6 Hz, 1H), 7.96 (dd, J=7.2, 1.6 Hz, 1H), 7.50-7.33 (m, 6H), 7.17-7.12 (m, 2H), 6.91 (dd, J=8.0, 4.8 Hz, 1H), 5.33 (t, J=5.6 Hz, 1H), 4.55 (d, J=6.0 Hz, 2H); LCMS [M+H]: 342.

reactant | 6-chloro-11H-benzo[e]pyrido[3,2-b][1,4]diazepine | 19 mmol, 4.3 g | ClC=1C2=C(NC3=C(N1)C=CC=N3)C=CC=C2 | C12H8ClN3
reactant | 4-(hydroxymethyl)benzohydrazide | 20 mmol, 3.2 g | OCC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
reactant | triethylamine | 20 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylacetamide | 100 mL | CC(=O)N(C)C | C4H9NO
product | (4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)phenyl)methanol | N=1N=C(N2C3=C(NC4=C(C21)C=CC=C4)N=CC=C3)C3=CC=C(C=C3)CO | C20H15N5O
